US05574030
(1) Ethyl 3-chloro-2-phenylpropionate
To ethyl 3-hydroxy-2-phenylpropionate (2.55 g, 13.1 mmol) in dichloromethane (15 ml), SOCl2 (1.87 g, 15.7 mmol) in dichloromethane (1 ml) was added while chilling with ice. After the resulting solution was stirred to cause reaction at room temperature for 3 hours, saturated aqueous sodium bicarbonate was added while chilling with ice. The prepared solution was extracted with dichloromethane, and the extract was washed with saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate. Subsequently, the solvent was removed by distillation under reduced pressure to obtain a crude product. The product was purified by silica gel column chromatography using acetone/hexane=1/3 to obtain 1.27 g of the titled compound as a colorless oil (yield: 45.5%).

reactant | ethyl 3-hydroxy-2-phenylpropionate | 13.1 mmol, 2.55 g | OCC(C(=O)OCC)C1=CC=CC=C1 | C11H14O3
reactant | SOCl2 | 15.7 mmol, 1.87 g | O=S(Cl)Cl | Cl2OS
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | Ethyl 3-chloro-2-phenylpropionate | 1.27 g, yield: 45.5% | ClCC(C(=O)OCC)C1=CC=CC=C1 | C11H13ClO2
